US09102591B2
2-chloro-N-(3-cyclopropyl-2-(6-(trifluoromethyl)pyridin-3-yl)propyl)-5-(methyl sulfonyl)benzamide
From 2-chloro-5-(methylsulfonyl)benzoic acid and 3-cyclopropyl-2-(6-(trifluoromethyl)pyridin-3-yl)propan-1-amine. LCMS (MH+): m/z=461.1, tR (minutes, Method G)=2.88

reactant | 2-chloro-5-(methylsulfonyl)benzoic acid | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7ClO4S
reactant | 3-cyclopropyl-2-(6-(trifluoromethyl)pyridin-3-yl)propan-1-amine | C1(CC1)CC(CN)C=1C=NC(=CC1)C(F)(F)F | C12H15F3N2
product | 2-chloro-N-(3-cyclopropyl-2-(6-(trifluoromethyl)pyridin-3-yl)propyl)-5-(methyl sulfonyl)benzamide | ClC1=C(C(=O)NCC(CC2CC2)C=2C=NC(=CC2)C(F)(F)F)C=C(C=C1)S(=O)(=O)C | C20H20ClF3N2O3S
